Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Erythromycin Base / lactose / ceftriaxone / adhesive / Tegaderm 
/ ultrasound gel
 
Attending: ___.
 
Chief Complaint:
Cirrhosis
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ year old male with history of alcohol use
disorder, alcoholic cirrhosis with ascites and hepatic
encephalopathy, chronic pain syndrome, anxiety, obesity, and
current tobacco use who presents to ___ from ___ for
deceased donor lives transplantation.

The patient currently reports that he feels well.  Denies recent
illness, besides admission for cellulitis as detailed below, and
denies recent sick contacts.  No recent fevers, chills, sweats,
malaise.  Denies abdominal pain, nausea, vomiting, diarrhea.  
Had
a paracentesis yesterday and reports some discomfort and the
puncture site but has no other complaints.  Denies rashes. 
Denies leg edema.  Reports that his abdomen feels distended, but
this is how it normally feels after a paracentesis.  Denies
dyspnea or chest pain/pressure with exertion.  States he is able
to climb a flight of stairs in his home without dyspnea, but 
does
not do much in the way of physical activity.  Denies orthopnea 
or
paroxysmal nocturnal dyspnea.  Denies any changes in his health
or medications since last discharge.

The patient was recently discharged from ___ on ___ after
being treated for cellulitis of the posterior right thigh.  At
that time, he was initially treated with IV vancomycin and
responded quickly.  He was subsequently transitioned to PO
Bactrim and discharged to home with instructions to complete a 7
day course.  He reports complete resolution of his symptoms and
has had no recurrence.

 
Past Medical History:
Alcoholic cirrhosis
Hepatic encephalopathy
Ascites
Obesity
Chronic pain  
Anxiety
History of alcohol misuse disorder
Tobacco dependence
 
Social History:
Discharge Summary Social History Signed ___ 
___ 5:13 ___
Prior to 5 weeks ago at his hospitalization at ___, he had 
been using alcohol almost on daily basis consuming 1 pint of 
vodka daily. Since his hospitalization at ___ in ___, he 
quit drinking. No recent drug use. Not currently employed. Lives 
at home with his wife. ___ ___ cigarettes per day.
Per ___ Psychiatric consult note: "Patient is the youngest 
out of 3 children in the family. He has an older brother and an 
older sister. Patient's parents got divorced. Patient was raised 
by his mother. He graduated from high school and worked at a 
___. Patient is currently disabled and supports himself 
by receiving SSDI. Patient lives at home with his wife of ___ 
years. He does not have any children. Patient denied any prior 
history of inpatient psychiatric care. He denied history of 
mania or psychotic features. Patient denied any history of 
suicidal or homicidal attempts or ideations Patient started 
abusing alcohol as a teenager."
 
Family History:
T2DM 
No history of liver disease
 
 
Physical Exam:
GENERAL APPEARANCE: seated at the bedside, no acute distress. No
jaundice
NECK: supple, trachea midline
HEENT: sclerae anicteric, oral mucosa pink and moist. Multiple
missing teeth
CV: RRR. No murmurs, rubs, or extra sounds.
LUNGS: Good air movement throughout. Faint rales in bilateral
bases, but otherwise clear to auscultation. 
GI: Bowel sounds present throughout. Abd obese and distended, 
but
soft and nontender.  No guarding, rigidity, or rebound
tenderness. There is palpable fullness in the R abdomen
EXTREM: Warm, well-perfused. Trace-1+ pitting edema in the lower
extremities. No asymmetric warmth or edema. Acyanotic
NEURO: A&O. Moves all extremities appropriately. No facial
asymmetry or dysarthria. Sensation grossly intact
PSYCH: Affect somewhat flattened

 
Pertinent Results:
___ 01:50PM BLOOD WBC-4.0 RBC-2.71* Hgb-9.3* Hct-27.4* 
MCV-101* MCH-34.3* MCHC-33.9 RDW-14.7 RDWSD-54.2* Plt Ct-79*
___ 01:50PM BLOOD ___ PTT-41.4* ___
___ 01:50PM BLOOD Glucose-114* UreaN-18 Creat-1.2 Na-135 
K-4.6 Cl-103 HCO3-22 AnGap-10
___ 01:50PM BLOOD ALT-32 AST-110* AlkPhos-146* TotBili-6.2*
___ 01:50PM BLOOD Albumin-3.2* Calcium-8.7 Phos-3.3 Mg-1.7
___ 01:50PM BLOOD HBsAg-NEG HBsAb-NEG HBcAb-NEG IgM HBc-PND
___ 01:50PM BLOOD HIV Ab-NEG
___ 01:50PM BLOOD HCV Ab-NEG
___ 01:50PM BLOOD HBV VL-PND HCV VL-PND
 
Brief Hospital Course:
___ y/o male with ETOH cirrhosis called in for liver transplant. 
Donor organ showed necrosis on biopsy, trnasplant was cancelled.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. FoLIC Acid 1 mg PO DAILY 
2. Lactulose 15 mL PO DAILY:PRN confusion 
3. LORazepam 1 mg PO BID:PRN anxiety 
4. Midodrine 15 mg PO TID 
5. OxyCODONE (Immediate Release) 2.5 mg PO Q8H:PRN Pain - 
Moderate 
6. Pantoprazole 40 mg PO Q24H 
7. rifAXIMin 550 mg PO BID 
8. Sertraline 25 mg PO DAILY 
9. TraZODone 50 mg PO QHS:PRN insomnia  
10. Vitamin D 1000 UNIT PO DAILY 
11. Docusate Sodium 100 mg PO BID:PRN Constipation - First Line 
12. Multivitamins 1 TAB PO DAILY 
13. Thiamine 100 mg PO DAILY 

 
Discharge Medications:
1.  Docusate Sodium 100 mg PO BID:PRN Constipation - First Line  

2.  FoLIC Acid 1 mg PO DAILY  
3.  Lactulose 15 mL PO DAILY:PRN confusion  
4.  LORazepam 1 mg PO BID:PRN anxiety  
5.  Midodrine 15 mg PO TID  
6.  Multivitamins 1 TAB PO DAILY  
7.  OxyCODONE (Immediate Release) 2.5 mg PO Q8H:PRN Pain - 
Moderate  
8.  Pantoprazole 40 mg PO Q24H  
9.  rifAXIMin 550 mg PO BID  
10.  Sertraline 25 mg PO DAILY  
11.  Thiamine 100 mg PO DAILY  
12.  TraZODone 50 mg PO QHS:PRN insomnia   
13.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Cirrhosis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Please continue all home medications, follow up appointment, 
food and fluid restrictions as you have been advised
 
Followup Instructions:
___